US04772600
2-(3-Bromophenyl)-N,N-dipropyl-3H-imidazo[4,5-b]pyridine-3-acetamide
Under nitrogen bubbling, a mixture of 2-(3-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.98 g, 0.015 mole) and 1,1'-carbonyldiimidazole (2.59 g, 0.016 mole) in 120 ml of tetrahydrofuran was stirred at room temperature for 4 hrs. The di-n-propylamine (3.04 g, 0.03 mole) was added and the reaction mixture was heated at reflux for (65° C.) for 8-9 hrs. The reaction mixture was filtered and the filtrate was evaporated to an oil, which was placed under high vacuum for 3 hrs. The solid residue was treated with water, collected by filtration, washed with water, and dried under high vacuum. The solid was recrystallized from isopropyl alcohol-water, collected by filtration, washed with water, and dried under high vacuum to give 3.2 g (52%), mp 125°-27° C.

reactant | 2-(3-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.015 mole, 4.98 g | BrC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10BrN3O2
reactant | 1,1'-carbonyldiimidazole | 0.016 mole, 2.59 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | di-n-propylamine | 0.03 mole, 3.04 g | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 2-(3-Bromophenyl)-N,N-dipropyl-3H-imidazo[4,5-b]pyridine-3-acetamide | BrC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)N(CCC)CCC | C20H23BrN4O
